US08067445B2
Step 7: [4′-(6-Ethoxy-pyridin-3-yl)-2′-ethylaminomethyl-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester, hydrochloride
[2′-[(tert-Butoxycarbonyl-ethyl-amino)-methyl]-4′-(6-ethoxy-pyridin-3-yl)-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester (1.09 g, 2.0 mmol) in CH2Cl2 (10 mL) was treated with 4N HCl in 1,4-dioxane (6 mL, 24.0 mmol) at room temperature, until complete conversion was seen by analytical LCMS. The mixture was concentrated to give the title compound.

reactant | [2′-[(tert-Butoxycarbonyl-ethyl-amino)-methyl]-4′-(6-ethoxy-pyridin-3-yl)-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester | 2.0 mmol, 1.09 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=NC(=CC1)OCC)CN(CC)C(=O)OC(C)(C)C)=O | C32H40N2O6
reactant | HCl | 4N | Cl | ClH
reactant | 1,4-dioxane | 24.0 mmol, 6 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | [4′-(6-Ethoxy-pyridin-3-yl)-2′-ethylaminomethyl-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester, hydrochloride | Cl.C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=NC(=CC1)OCC)CNCC)=O | InChI=1S/C27H32N2O4.ClH/c1-5-28-17-22-16-20(21-10-13-26(29-18-21)32-6-2)9-11-23(22)24-14-19(8-12-25(24)31-4)15-27(30)33-7-3;/h8-14,16,18,28H,5-7,15,17H2,1-4H3;1H
